US04994465
Step B: Preparation of N'-(2,4-difluorophenyl)-N-benzyl-N-[(2,2-diphenyl)ethyl]urea.
To a solution of N-benzyl-2,2-diphenyl ethyl amine (1.5 g, 0.005 mol) in 100 mL ethyl acetate was added 2,4-difluorophenyl isocyanate (0.8 g, 0.005 mol). The mixture was stirred for 20 hours at room temperature and then concentrated under vacuum. The residue was taken up in hexane. The solid suspension was filtered and oven-dried, affording 2.2 g of a fine white powder, mp 120-123° C.

reactant | N-benzyl-2,2-diphenyl ethyl amine | 0.005 mol, 1.5 g | C(C1=CC=CC=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C21H21N
reactant | 2,4-difluorophenyl isocyanate | 0.005 mol, 0.8 g | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N'-(2,4-difluorophenyl)-N-benzyl-N-[(2,2-diphenyl)ethyl]urea | 2.2 g | FC1=C(C=CC(=C1)F)NC(N(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=CC=C1)=O | C28H24F2N2O
